US06303613B1
3-Amidino-4-aminopyridine hydrochloride
3-Amidino-4-aminopyridine To ammonium chloride (430 mg, 8.1 mmol) in toluene was added trimethylaluminium (2M in hexane, 4 ml, 8.1 mmol) at 5° C. and the mixture was stirred at room temperature for 2 h. 4-Amino-3-cyanopyridine (320 mg, 2.7 mmol) was added and the reaction mixture was heated at 80° C. overnight. The mixture was cooled, poured onto alumina in chloroform, quenched with ethanol and filtered. The filtrate was concentrated and triturated with ether to give a solid. MS (+EI) m/z 119 (M−NH3)+.

reactant | 3-Amidino-4-aminopyridine | C(N)(=N)C=1C=NC=CC1N | C6H8N4
reactant | ammonium chloride | 8.1 mmol, 430 mg | [Cl-].[NH4+]
reactant | trimethylaluminium | 8.1 mmol, 2M, 4 ml | C[Al](C)C
reactant | 4-Amino-3-cyanopyridine | 2.7 mmol, 320 mg | NC1=C(C=NC=C1)C#N | C6H5N3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 3-Amidino-4-aminopyridine hydrochloride | Cl.C(N)(=N)C=1C=NC=CC1N | InChI=1S/C6H8N4.ClH/c7-5-1-2-10-3-4(5)6(8)9;/h1-3H,(H2,7,10)(H3,8,9);1H
